US05057513
1-Phenylmethyl-10-(4-bromobutyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide (0.34 g) in pyridine (5 ml) was refluxed for thirty minutes. Then pyridine was evaporated in vacuo to give 1-phenylmethyl-10-{4-(1-pyridinio)butyl}-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide bromide (0.42 g).

reactant | 1-Phenylmethyl-10-(4-bromobutyl)-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide | 0.34 g | C1(=CC=CC=C1)CC1CCCCC12S(CCN(C(C2)=O)CCCCBr)(=O)=O | C21H30BrNO3S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 1-phenylmethyl-10-{4-(1-pyridinio)butyl}-11-oxo-7-thia-10-azaspiro[5.6]dodecane 7,7-dioxide bromide | 0.42 g | [Br-].C1(=CC=CC=C1)CC1CCCCC12S(CCN(C(C2)=O)CCCC[N+]2=CC=CC=C2)(=O)=O | InChI=1S/C26H35N2O3S.BrH/c29-25-22-26(14-6-5-13-24(26)21-23-11-3-1-4-12-23)32(30,31)20-19-28(25)18-10-9-17-27-15-7-2-8-16-27;/h1-4,7-8,11-12,15-16,24H,5-6,9-10,13-14,17-22H2;1H/q+1;/p-1
